US03974283
In 60 ml. of ml.of anhydrous tetrahydrofuran, there is dissolved 12.0 grams of 4-t-butyl-1,2,3,6-tetrahydropyridine. Stirring is initiated and there is added 7.3 grams of methylisothiocyanate in 25 ml. of anhydrous tetrahydrofuran. After stirring the reaction mixture for 18 hours at room temperature, the tetrahydrofuran is evaporated in vacuo at 50°C/20 mmHg. The resulting oil is crystallized from methylene chloride/pentane 1:1 to give N-methyl-4-t-butyl-1,2,3,6-tetrahydro-1-pyridinethiocarboxamide; m.p. 76° to 78°C.

reactant | 4-t-butyl-1,2,3,6-tetrahydropyridine | 12.0 grams | C(C)(C)(C)C=1CCNCC1 | C9H17N
reactant | methylisothiocyanate | 7.3 grams | CN=C=S | C2H3NS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-methyl-4-t-butyl-1,2,3,6-tetrahydro-1-pyridinethiocarboxamide | CNC(=S)N1CCC(=CC1)C(C)(C)C | C11H20N2S
